US09023760B2
Preparation of 8-Methoxy-1-methyl-3-nitro-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]decane-2,4-dione (compound P1.13)
To a solution of 4-hydroxy-8-methoxy-1-methyl-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]dec-3-en-2-one (compound P2.2) (150 mg, 0.454 mmol) in chloroform (5 ml) at −5° C. was added fuming nitric acid (0.038 ml, 57.8 mg, 0.917 mmol) in chloroform (0.5 ml) dropwise. The reaction mixture was stirred at 0° C. for 30 minutes and at room temperature for three days, poured on ice water (10 ml), the layers were separated, the water phase extracted with ethyl acetate (3×20 ml), the combined organic phases washed with water (15 ml) and brine (15 ml), dried over sodium sulfate and concentrated. The residue was purified by chromatography on silica gel (ethyl acetate/cyclohexane 1:3). Yield: 90 mg of 8-methoxy-1-methyl-3-nitro-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]decane-2,4-dione (title compound P1.13) as a white solid, mp 127-129° C.

reactant | 4-hydroxy-8-methoxy-1-methyl-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]dec-3-en-2-one | 0.454 mmol, 150 mg | OC1=C(C(N(C12CCN(CC2)OC)C)=O)C2=C(C=C(C=C2C)C)C | C19H26N2O3
reactant | nitric acid | 0.917 mmol, 0.038 ml, 57.8 mg | [N+](=O)(O)[O-] | HNO3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 0.5 ml | C(Cl)(Cl)Cl | CHCl3
product | 8-Methoxy-1-methyl-3-nitro-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]decane-2,4-dione | CON1CCC2(C(C(C(N2C)=O)(C2=C(C=C(C=C2C)C)C)[N+](=O)[O-])=O)CC1 | C19H25N3O5
